US06495560B1
d) 10,11-Dihydro-3-methoxy-5H-dibenzo[a,d]cyclohepten-10one
A solution of 2-benzyl-4methoxyphenylacetic acid (215 g of crude material that contained 204.6 g (0.80 mole) of pure material) in CH2Cl2 (1 L) was stirred under argon at ambient temperature, and DMF (1 mL) was added, followed by oxalyl chloride (400 mL, 4.59 mole). The oxalyl chloride was added over 1 hr, dropwise initially to control the vigorous gas evolution. The solution was stirred for 16 h at ambient temperature and then was concentrated to give the crude acid chloride (207.7 g, 0.756 mol, 95%) as a yellow liquid. This liquid was dissolved in CH2Cl2 to a total volume of 500 mL, and the solution and AlCl3 (100.8 g, 0.756 mol) were added concurrently over 1 hr to CH2Cl2 (3.7 L) with stirring under argon at ambient temperature. The temperature was 28° C. at the completion of the addition. The reaction mixture was stirred for 16 h at ambient temperature, during which time a solid precipitated. H2O (1 L) was added, initially dropwise, over a period of 30 min. The mixture was then separated and the organic phase was washed sequentially with H2O (1 L) and 5% aqueous NaHCO3 (1 L). The CH2Cl2 solution was then concentrated to give a yellow solid (175.3 g). Recrystallization from EtOAc/hexane gave the title compound (128 g, 71%): mp 107-109° C.

reactant | 2-benzyl-4methoxyphenylacetic acid | 0.80 mole, 215 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)CC(=O)O | C16H16O3
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 4.59 mole, 400 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 0.756 mol, 100.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3.7 L | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-3-methoxy-5H-dibenzo[a,d]cyclohepten-10one | 175.3 g | COC=1C=CC2=C(CC3=C(C(C2)=O)C=CC=C3)C1 | C16H14O2
